US06673347B1
208 mg of p-amino-L-phenylalanine-methylester.
HCl were dissolved in 2 ml of butane-1,4-diol. To this solution were added approximately 2 ml of 0.5 M tris-base in butane-1,4-diol/H2O (4:1, v/v), until the pH (glass electrode) was 6.5. 100 mg of solid Zn-free insulin were added to 3.1 ml of the buffered methyl ester solution. Most of the insulin went into solution after incubation at 37° C. for 30 minutes. Trypsin (12 mg, Worthington TPCK grade) was dissolved in 120 μl of water and 100 μl of the solution were added. After 90 minutes at 37° C., during which time the insulin dissolved completely, cellulose-acetate electrophoresis at pH 8 revealed that more than half of the insulin had been converted to a product that migrated more slowly than insulin. Since the pK of an aromatic amino group is well below 8, this is the expected behaviour of the desired product. The reaction mixture was cooled and 3.1 ml of glacial acetic acid were added to stop the enzymic reaction. The resulting mixture was then diluted with an equal volume of 10% (v/v) acetic acid and subjected to gel filtration on a 90×2.6 cm column of Sephadex G-50 (fine), elution with 1% (v/v) acetic acid.

reactant | HCl | Cl | ClH
reactant | tris-base | 0.5 M, approximately 2 ml | C(C(CO)(CO)N)O | C4H11NO3
reactant | TPCK | CC=1C=CC(=CC1)S(=O)(=O)N[C@@H](CC=2C=CC=CC2)C(=O)CCl | C17H18ClNO3S
reactant | butane-1,4-diol | 2 ml | C(CCCO)O | C4H10O2
solvent | butane-1,4-diol H2O | C(CCCO)O.O
solvent | water | 120 μl | O | H2O
catalyst | Zn | [Zn] | Zn
product | p-amino-L-phenylalanine-methylester | COC([C@@H](N)CC1=CC=C(C=C1)N)=O | C10H14N2O2
